2177-01-21 02:29:00 Physician Attending Progress Note
Chief Complaint: anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87W fall at home, no LOC, brought to ER. In ER she became delirious and
   she had head and neck CT which were unremarkable. CBC showed Hct 23, NG
   lavage negative, abd CT showed invasive mass and lytic bone lesions.
   Repeat Hct was 19 and was given PRBCs. Brief episode of hypotension
   that resolved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   CAD
   HTN
   breast cancer - lumpectomy
   CCY
   osteoporosis
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-21**] 02:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 113 (113 - 118) bpm
   BP: 131/100(109) {131/100(109) - 131/100(110)} mmHg
   RR: 25 (25 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                  700 mL
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: 2L
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, palpable mass LLQ, guaiac negative
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed, oriented x 3
   Labs / Radiology
   [**Telephone/Fax (2) 11571**]2
   19
   14
        [image002.jpg]
   Other labs: CK / CKMB / Troponin-T:500//0.19
   Imaging: chest CT atelectasis at bases
   aabd CT masses in retroperitoneum and stomach
   ECG: ST 148, lateral ST depressions
   Assessment and Plan
 ANEMIA - no obvious cause at this time. may be slowly worsening
   anemia of chronic disease in setting of malignancy along with iron
   deficiency. will transfuse and follow, hold ASA
   masses in abdomen - will need to explore goals of care with patient and
   sons. She has multiple sites amenable to to biopsy if needed.
   elevated CK - suspect related to fall, will hydrate and follow
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-1-21**] 01:09 AM
   20 Gauge - [**2177-1-21**] 01:11 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2177-01-22 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TTE: Normal biventricular cavity sizes with preserved global and
   regional biventricular systolic function. Borderline normal free wall
   motion. Mild pulmonary artery systolic hypertension. Mild mitral
   regurgitation. Dilated ascending aorta.
   - GI wants cards consult to clear for scope possibly tomorrow
   - Repeat HCT 31.4 and stable from 33
   - Stopped her fluids, gave her lasix 10mg IV ONCE, still 400+ at MN,
   treating another shot of lasix 20mg IV ONCE as still on 4LNC
   - Will call cards consult at 8am
   - UPEP not yet pending even though added on, will resend
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2177-1-21**] 10:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-22**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (96.9
   HR: 80 (73 - 114) bpm
   BP: 122/80(90) {99/57(67) - 149/91(104)} mmHg
   RR: 16 (16 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,283 mL
                  PO:
                                                                    560 mL
                  TF:
   IVF:
                                                                    643 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,178 mL
                                                                    550 mL
   Urine:
                                                                  1,878 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    105 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Pulm: Bibasilar crackles, CV: RR, no murmurs, ABd: Soft, NT/ND, Ext:
   +edema
   Labs / Radiology
   ECHO:
   The left atrium and right atrium are normal in cavity size. Left
   ventricular wall thickness, cavity size and regional/global systolic
   function are normal (LVEF >55%). Tissue Doppler imaging suggests a
   normal left ventricular filling pressure (PCWP<12mmHg). Right
   ventricular chamber size is normal. with borderline normal free wall
   function. The ascending aorta is mildly dilated. The aortic valve
   leaflets (3) are moderately thickened. There is no aortic valve
   stenosis. Trace aortic regurgitation is seen. Mild (1+) mitral
   regurgitation is seen. [Due to acoustic shadowing, the severity of
   mitral regurgitation may be significantly UNDERestimated.] There is
   mild pulmonary artery systolic hypertension. There is no pericardial
   effusion.
   IMPRESSION: Normal biventricular cavity sizes with preserved global and
   regional biventricular systolic function.. Mild pulmonary artery
   systolic hypertension. Mild mitral regurgitation. Dilated ascending
   aorta.
   CT Abd/Pelv:
   1. Diffuse nodular thickening essentially involving the entire stomach,
   concerning for diffuse neoplastic involvement.
   2. Left retroperitoneal enhancing mass, eroding the adjacent L2
   vertebral
   body, and extending into the spinal canal.
   3. Lesions in the right hemisacrum and the left ilium, concerning for
   metastatic involvement.
   4. Diffuse periportal edema.
   5. Mild CBD dilatation, without a distal obstructing lesion identified.
   6. Multiple small hypodensities in bilateral kidneys, too small to
   characterize.
   7. Small bilateral pleural effusions, with associated atelectasis and
   consolidation of the adjacent lung.
   230 K/uL
   10.8 g/dL
   97 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.6 mEq/L
   23 mg/dL
   101 mEq/L
   135 mEq/L
   31.5 %
   9.5 K/uL
        [image002.jpg]
                             [**2177-1-21**]  02:11 AM
                             [**2177-1-21**]  09:46 AM
                             [**2177-1-21**]  04:32 PM
                             [**2177-1-21**]  09:50 PM
                             [**2177-1-22**]  03:53 AM
   WBC
   12.3
   9.5
   Hct
   27.1
   33.7
   31.4
   32.0
   31.5
   Plt
   271
   230
   Cr
   0.6
   0.6
   TropT
   1.05
   0.94
   0.76
   0.73
   0.61
   Glucose
   121
   97
   Other labs: PT / PTT / INR:14.9/24.4/1.3, CK / CKMB /
   Troponin-T:164/12/0.61, ALT / AST:102/126, Alk Phos / T Bili:121/0.6,
   Differential-Neuts:83.3 %, Lymph:10.2 %, Mono:6.4 %, Eos:0.0 %, Lactic
   Acid:1.2 mmol/L, LDH:767 IU/L, Ca++:10.5 mg/dL, Mg++:1.6 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
 PLEURAL EFFUSION, ACUTE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   87 year-old woman with significant past medical history of CAD s/p MI,
   HTN, HL, stage I breast ca s/p lumpectomy on remision who comes after a
   fall and is found to have a 13-point HCT drop and CT-scan findings
   concerning for malignancy.
   # Anemia: Likely chronic and secondary to underlying malignancy of GI
   origin/involvement given CT findings w/ mass.  Hct has been stable
   since transfusion.  GI involved and agree with endoscopy w/ biopsy,
   pending cardiology assessment. Iron panel c/w iron def w/ low iron/TIBC
   ratio.  Hemolysis unlikely given elevated hapto and non-elevated
   bili
   - Appreciate GI recs
   - EGD w/ biopsy
   - two large bore ivs
   - [**Hospital1 **] ppi
   - maintain active type/screen
   - [**Hospital1 **] hct, transfuse for hct <30 given signs of ischemia
   - malignancy w/o below
   - SPEP/UPEP
   # Abdominal Mass: CT abdomen sig for nodular thickening of the stomach,
   retroperitoneal mass w/ vertebral involvement, and bony lesions
   concerning for metastasis.  LFTs also w/ mild transaminitis, but no
   liver lesions seen on CT.  These findings are suggestive of
   malignancy.  Ddx remains broad, including sarcoma, primary GI,
   lymphoma.  With a history of breast cancer, recurrence is a
   possibility, though most recent mamogram in [**2175**] wnl.  Patient w/ lung
   nodule, possibly primary lung though this is less likely as nodule
   overall has remained stable.
   - Appreciate GI recs
   - EGD w/ biopsy
   - Consider tumor markers: CEA, Ca [**85**]-9, Ca 125
   - F/u UPEP
   # Elevated CE: Likely stress induced with demand ischemia.  CKs and
   Trops are down-trending and patient remains free of chest pain.
   - Cont Tele
   - Cont high dose statin, beta blocker, and aspirin
   - Consult cardiology this AM
   - Consider starting ace-I, not on at home
   # O2 requirement: On exam appears volume overloaded.
   - 20mg iv lasix x 1
   #. Fall: No obvious signs of trauma. CT head neg for acute process.  CT
   C spine neg for acute fracture.  Can be secondary to volume loss (given
   GI bleed and low hc).  Infx less likely as leukocytosis resolved and no
   other signs of infxn.  Acute MI possible given rise in CE, but less
   likely in the absence of CP and new wall motion abnormality on echo,
   and enzymes now down trending. History less c/w seizures and exam not
   notable for focal neuro defecit suggestive of stroke.
   - PT consult
   # Hypercalcemia: Likely secondary to malignancy w/ bony mets
   - Monitor
   # ARF: Resolved w/ hydration and transfusion
   # Hyponatremia: Resolved w/ IVFs
   #. H/o CAD:
   - Cont bb, asa, statin
   # H/o Stage I Breast CA: last mammogram w/o evidence of recurrence.
   Metastatic breast cancer remains possibility.
   #GERD:
   - Cont [**Hospital1 **] ppi, given concerns for GIB
   # Hypercholestrolemia:
   - Cont statin
   # Anxiety:
   - Cont home clonazepam
   # Osteoporosis
   - Cont Ca/Vit D
   # Osteoarthritis
   - Cont hydrocodone-acetaminophem
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-1-21**] 10:41 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: To floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: 87F breast ca, cad / NSTEMI, gerd, anxiety,
   recent FTT/weight loss admitted after mechanical fall with significant
   hct drop, found to have abd mass, inflamed gastric mucosa, lytic sacral
   lesion on CT, presentation c/b NSTEMI/demand ischemia
   and hypoxia/pulmedema.  BP remained stable. Hct has remained
   stable. Diuresed and O2 weaned to 2L.
   AF  120/80   80  14   98% 2L Elderly F alert in NAD, still with
   elevated JVP, scant rales BB, RR, soft NT + BS, palp mass LUQ, trace
   peripheral edema
   WBC 9.5K, HCT 32,  K+ 3.6, Cr 0.6, ca [**76**].5, lactate 1.2. CEs trending
   down
   Agree with plan to manage GIB/anemia with PPI, following serial hcts,
   large bore PIV access.  Hct has held stable without additional
   transfusions needed. We are completing anemia w/u.  In terms of abd
   mass, awaiting EGD for evaluation/malignancy work-up.  In terms of
   hypoxia, is improving, but remains volume overloaded with pulm edema
   and JVD.  We continue to diurese with lasix and wean O2 as tolerates.
   For NSTEMI, we reviewed her TTE, her cardiac enzymes have peaked. Card
   input appreciated. We cont ASA, statin, BB. Her  cr has normalized and
   UOP remains adequate.  Full code, PIVs, boots.. Remainder of plan as
   outlined in resident note. Stable for floor transfer.
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2177-1-22**] 05:29 PM ------